US09403760B2
2) Synthesis of (E)-tetradec-2-enoyl chloride
(E)-tetradec-2-enoic acid (18.7 g) was dissolved in anhydrous dichloromethane (200 ml) under nitrogen with stirring. The solution was cooled in ice-water bath for 30 min. Oxalyl chloride (9.1 ml) was added dropwise. The reaction mixture was slowly warm up to room temperature overnight. The solvent was removed under vacuum. The product was obtained as clear oil (20.0 g, 99%) and used in next step synthesis without further purification.

reactant | (E)-tetradec-2-enoic acid | 18.7 g | C(\C=C\CCCCCCCCCCC)(=O)O | C14H26O2
reactant | Oxalyl chloride | 9.1 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
product | (E)-tetradec-2-enoyl chloride | 20.0 g, 99% | C(\C=C\CCCCCCCCCCC)(=O)Cl | C14H25ClO
